US06316494B1
cis-7-Hydroxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane hydrochloride
cis-7-Methoxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane (4 g) was dissolved in melted pyridinium chloride, prepared from a mixture of pyridine (20 ml) and conc. hydrochloric acid (21 ml) where the water was removed by distillation at 140° C. The mixture was heated at 140° C. for 3 hours and then at 150° C. for 6 hours. The mixture was cooled down to 100° C. Water was added (30 ml) and the mixture was cooled down to 30° C. Toluene (30 ml) and sodium hydroxide (32,5%) to pH 12 was added. The mixture emulsified and was again made pH 3 with conc. hydrochloric acid. The hydrochloride of cis-7-hydroxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane precipitated as a sticky product. It was dissolved in ethanol (200 ml) and water (10 ml), treated with active carbon, filtered and evaporated. Redissolved in ethanol (50 ml) and water until dissolved at 79° C. The product crystallised when the solution was cooled down to room temperature.

reactant | cis-7-Methoxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane | 4 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H31NO3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 21 ml | Cl | ClH
reactant | water | O | H2O
solvent | pyridinium chloride | [Cl-].[NH+]1=CC=CC=C1
product | cis-7-Hydroxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane hydrochloride | Cl.OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | InChI=1S/C27H29NO3.ClH/c29-22-10-13-24-26(18-22)31-19-25(20-6-2-1-3-7-20)27(24)21-8-11-23(12-9-21)30-17-16-28-14-4-5-15-28;/h1-3,6-13,18,25,27,29H,4-5,14-17,19H2;1H/t25-,27-;/m0./s1
